US06500863B1
N-(2-isopropoxyethyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, crude N-(2-isopropoxyethyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (1.17 g) was reduced with hydrogen and Pd/C (350 mg). The crude product (1.086 g) was carried on to the next step without purification. 1H NMR (MeOD-d4): δ 6.92 (d, 1H), 6.85 (d, 1H), 3.45 (m, 1H), 3.39 (t, 2H), 3.10 (t, 2H), 1.05 (d, 6H).

reactant | N-(2-isopropoxyethyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.17 g | C(C)(C)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C11H15ClN2O6S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | N-(2-isopropoxyethyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide | C(C)(C)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C11H17ClN2O4S
